US06706731B2
Under a N2 atmosphere, 8 g (19 mmol) of an (E/Z) mixture of rac. 2-iodo-benzoic acid-[1-methyl-3-(6-methoxy-pyridin-3-yl)-allylamide], 5.9 g (19 mmol) of tetrabutylammonium chloride and 0.12 g of palladium diacetate are dissolved in 170 ml of DMF, then 8.9 g (48 mmol) of tributylamine are added and stirred for 20 h at 150° C. The mixture is filtered and the DMF is partially evaporated on a RE. The residue is dissolved with EtOAc and water, the water phase separated, extracted twice with EtOAc and discarded. The organic phases are washed with water, extracted with 200 ml of 1N HCl and 2 portions of 200 ml 0.5 N HCl, washed with saturated Na2CO3 solution and brine, dried (Na2SO4) and concentrated by evaporation. Column chromatography (SiO2, hexane/EtOAc 1:1→1:2) and recrystallisation from acetonitrile yield rac. 4-[1-(6-methoxy-pyridin-3-yl)-methylidene]-3-methyl-3,4-dihydro-2H-isoquinolin-1-one (m.p. 194-195° C.; FAB-MS: (M+H)+=281; TLC(hexane/EtOAc 1:1): Rf=0.26). The acidic aqueous extracts are collected in a solution of 60 g of K2CO3 in 0.5 l of water. Upon standing, 4-[(6-methoxy-pyridin-3-yl)-methyl]-3-methyl-2H-isoquinolin-1-one crystallises, and can be filtered off by suction, washed with water and recrystallised from boiling EtOAc/methanol (m.p. 234-236° C.; FAB-MS: (M+H)+=281; TLC(hexane/EtOAc 1:1): Rf=0.18).

reactant | rac. 2-iodo-benzoic acid-[1-methyl-3-(6-methoxy-pyridin-3-yl)-allylamide] | CC(C=CC=1C=NC(=CC1)OC)NC(C1=C(C=CC=C1)I)=O | C17H17IN2O2
reactant | tributylamine | 48 mmol, 8.9 g | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | tetrabutylammonium chloride | 19 mmol, 5.9 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 170 ml | CN(C)C=O | C3H7NO
catalyst | palladium diacetate | 0.12 g | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | rac. 4-[1-(6-methoxy-pyridin-3-yl)-methylidene]-3-methyl-3,4-dihydro-2H-isoquinolin-1-one | COC1=CC=C(C=N1)C=C1C(NC(C2=CC=CC=C12)=O)C | C17H16N2O2
